US06660753B2
A stirred suspension of 3-(2-pyridyl)-5-(3-alloxy-5-(methoxycarbonyl)phenyl)-1,2,4-oxadiazole (160 mg, 0.47 mmol) in methanol (5 mL) at ambient temperature was treated with 1M sodium hydroxide (0.8 mL, 0.80 mmol). The reaction was stirred 16 hours and solvent was removed in vacuo. The residue was dissolved in a small amount of water and then acidified with 1N hydrogen chloride. Extraction of the aqueous phase with dichloromethane followed by concentration in vacuo afforded 104.5mg of 3-(2-pyridyl)-5-(3-alloxy-5-(hydroxycarbonyl)phenyl)-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(3-alloxy-5-(methoxycarbonyl)phenyl)-1,2,4-oxadiazole | 0.47 mmol, 160 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C(=O)OC)OCC=C | C18H15N3O4
reactant | sodium hydroxide | 0.80 mmol, 1M, 0.8 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 3-(2-pyridyl)-5-(3-alloxy-5-(hydroxycarbonyl)phenyl)-1,2,4-oxadiazole | 104.5mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C(=O)O)OCC=C | C17H13N3O4
